* C:\Users\pbuko\Desktop\ClassDAmp\ClassDAmplifier\simulations\Top\Top.asc
XU9 Vcc_15 H_side1 Vout+ irfz24n
XU10 Vout+ L_side1 0 irfz24n
XU11 Vcc_15 H_side2 Vout- irfz24n
XU12 Vout- L_side2 0 irfz24n
Vsup Vcc_15 0 15
C1 boot1 Vout+ 1.5µ
C2 boot2 Vout- 1.5µ
XU13 N001 boot1 SS14
XU14 N002 boot2 SS14
R14 N001 Vcc_15 3.3
R15 Vcc_15 N002 3.3
XX2 audio 0 triangle Vcc_5 Vref N003 pwm_modulator_component
XX3 0 PWM_mod Vcc_5 DEAD_N DEAD_P deadtime_component
XX4 boot1 boot2 0 DEAD_N DEAD_P Vcc_15 H_side1 H_side2 L_side1 L_side2 gatedriver_component
Vsup_2 Vcc_5 0 5
Vref Vref 0 2.5
V§Audio audio 0 SINE(0 0.95 10k)
XX1 Vcc_5 Vref 0 triangle triangle_wave_gen
XU1 PWM_mod N004 Vcc_5 0 SN74LVC2G17
R1 N004 N003 500
C3 N004 0 100p
L_BTL1 Vout+ N005 68µ Rser=0.1
Cg1 N005 0 0.1µ Rser=0.01
L_BTL2 Vout- N006 68µ Rser=0.1
Cg2 N006 0 0.1µ Rser=0.01
C_BTL N005 N006 0.33µ Rser=0.1
Rload N005 N006 8

* block symbol definitions
.subckt pwm_modulator_component Audio GND INT_IN Vcc_5 Vref PWM_OUT
XU3 Vin+offset INT_IN Vcc_5 0 PWM_OUT TLV3201
C3 Vin+offset Audio 1µ
R5 Vin+offset Vref 10k
R1 PWM_OUT Vin+offset 400k
.inc ../libraries/tlv9062.lib
.inc ../libraries/tlv3201.lib
.ends pwm_modulator_component

.subckt deadtime_component GND PWM_IN Vcc_5 OUT_N OUT_P
XU3 N001 RC_out Vcc_5 0 SN74LVC2G17
XU4 N004 RC_out Vcc_5 0 SN74LVC2G17
R1 RC_out PWM_IN {res}
C1 RC_out GND {cap}
XU1 OUT_P N003 N004 Vcc_5 0 SN74AHC1G32
XU2 OUT_N N001 N002 Vcc_5 0 SN74AHC1G00
XU5 N002 PWM_IN Vcc_5 0 SN74LVC2G17
XU6 N003 PWM_IN Vcc_5 0 SN74LVC2G17
.inc ../libraries/SN74AHC1G32_OR.lib
.inc ../libraries/SN74AHC1G00_NAND.lib
.inc ../libraries/SN74LVC2G17_BUFF.lib
.param cap=470p
.param res=680
.ends deadtime_component

.subckt gatedriver_component boot1 boot2 GND IN_N IN_P Vcc_15 H_side1 H_side2 L_side1 L_side2
XU1 N003 N004 0 2N7002
R1 boot1 N003 47
R2 N004 IN_N 220
XU2 boot1 N003 0 N002 N003 N002 ZXTC2045E6
R3 H_side1 N002 10
XU3 N006 N007 0 2N7002
R4 Vcc_15 N006 47
R5 N007 IN_P 220
XU4 Vcc_15 N006 0 N005 N006 N005 ZXTC2045E6
R6 L_side1 N005 10
XU5 N009 N010 0 2N7002
R7 boot2 N009 47
R8 N010 IN_P 220
XU6 boot2 N009 0 N008 N009 N008 ZXTC2045E6
R9 H_side2 N008 10
XU7 N012 N013 0 2N7002
R10 Vcc_15 N012 47
R11 N013 IN_N 220
XU8 Vcc_15 N012 0 N011 N012 N011 ZXTC2045E6
R12 L_side2 N011 10
XU9 H_side1 N002 SS14
XU10 L_side1 N005 SS14
XU11 H_side2 N008 SS14
XU12 L_side2 N011 SS14
.inc ../libraries/2n7002.lib
.inc ../libraries/ZXTC2045E6.lib
.inc ../libraries/irfz24n.lib
.inc ../libraries/ss14.lib
.ends gatedriver_component

.subckt triangle_wave_gen Vcc_5 Vref GND INT_OUT
XU1 Vref N001 Vcc_5 0 INT_OUT TLV9062
XU2 N004 Vref Vcc_5 0 N002 TLV3201
C1 INT_OUT N001 1n
R1 N001 N003 500
R2 N004 INT_OUT 10k
R3 N002 N004 25k
R4 N003 N002 500
C2 N003 GND 250p
.inc ../libraries/tlv9062.lib
.inc ../libraries/tlv3201.lib
.ends triangle_wave_gen

.inc ../libraries/irfz24n.lib
.inc ../libraries/ss14.lib
* Full Bridge with Bootstrap
* Main Power Supply
* Libraries
.tran 0 400u 200u
* Secondary Power Supply
* Reference Voltage
* Audio Signal
.inc ../libraries/SN74LVC2G17_BUFF.lib
.inc ../libraries/tlv9062.lib
* Low Pass Filter with load
.options method=gear
.options plotwinsize=0
.options fastaccess
.options maxstep=10n
.options reltol=0.005 vntol=100u abstol=1n
.backanno
.end
