**************** Power Discrete MOSFET Electrical Circuit Model ****************
* Product Name: FQD13N10L
* 100V Logic N-Channel MOSFET and D-PAK
*-------------------------------------------------------------------------------
.SUBCKT FQD13N10L 20 10 30
Rg 10 1 0.04
M1 2 1 3 3 DMOS L=1U W=1U
.MODEL DMOS NMOS(VTO={1.90*{-0.00082*TEMP+1.0205}} KP={12.7*{-0.00024*TEMP+1.006}}
+ THETA=0.08  VMAX=1.5E5   LEVEL=3)
Cgs 1 3 380P
Rd 20 4 0.05 TC=0.01
Dds 3 4 DDS
.MODEL DDS D(BV={100*{0.00068*TEMP+0.983}}  M=0.36   CJO=75p   VJ=0.35)
Dbody 3 20 DBODY
.MODEL DBODY D(IS=1.8E-12  N=1.00  RS=0.042  EG=1.16  TT=75n)
Ra 4 2 0.05 TC=0.01
Rs 3 5 0.002
Ls 5 30 1.97n
M2 1 8 6 6 INTER
E2 8 6 4 1 2
.MODEL INTER NMOS (VTO=0 KP=10 LEVEL=1)
CGDMAX 7 4 440p
Rcgd 7 4 1E7
Dgd 6 4 DGD
Rdgd 4 6 1E7
.MODEL DGD D(M=0.40 CJO=440p VJ=0.22)
M3 7 9 1 1 INTER
E3 9 1 4 1 -2
.ENDS
*--------------------------------------------------------------------------------
* Creation : Nov.-12-2002 
* Fairchild Semiconductor