* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=10FEB2011
*VERSION=1
*PIN_ORDER         
* 1=C1    6=E1
* 2=B1    5=B2
* 3=C2    4=E2
*
.SUBCKT ZXTC2045E6 1 2 3 4 5 6
Q1 1 2 6 Nmod
Q2 3 5 4 Pmod
*
.MODEL Nmod  NPN IS =2.5E-13 NF =1 BF =600 IKF=1 VAF=51 ISE=2E-13 
+ NE =1.4 NR =1 BR =150 IKR=.5 VAR=25 ISC=1e-13 NC =1.47 RB =0.5
+ RE =0.055 RC =0.055 CJC=23E-12 MJC=0.33 VJC=0.75 CJE=98E-12 TF =0.8E-9 
+ TR =30e-9 
.MODEL Pmod PNP IS=2e-13 BF=550 XTB=1.4 NF=1 VAF=21 IKF=0.25
+ ISE=1e-13 NE=1.38 BR=55 NR=1 VAR=9.9 IKR=0.25 ISC=1e-13 NC=1.18
+ RE=0.06 RB=0.7 RC=0.06 CJE=95.9e-12 VJE=0.897 MJE=0.468 CJC=43.4e-12
+ VJC=1.816 MJC=0.85 TF=495e-12 TR=25e-9
.ENDS
*
*$